US04267190
C. 2,3-Diphenylpyrrole (Method B)
A mixture of 3.1 g (0.011 mole) of 4-dimethylhydrazono-1,2-diphenyl-2-buten-1-one, 11.2 g (0.064 mole) sodium hydrosulfite in 75 ml ethanol and 37.5 ml water was heated at reflux for three hours. The mixture was cooled and poured into 300 ml ice water. The white crystalline product was collected, washed with water and air dried to give 1.9 g (79%), m.p. 130°-1°, identical to product obtained via the decarboxylation, Method A.

reactant | 4-dimethylhydrazono-1,2-diphenyl-2-buten-1-one | 0.011 mole, 3.1 g | CN(N=CC=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)C | C18H18N2O
reactant | sodium hydrosulfite | 0.064 mole, 11.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 37.5 ml | O | H2O
product | 2,3-Diphenylpyrrole | C1(=CC=CC=C1)C=1NC=CC1C1=CC=CC=C1 | C16H13N
